US06734191B2
AMD9852: Preparation of N-(2-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzyl)-guanidine
To a solution of (1H-Benzimidazol-2-ylmethyl)-(2-Aminomethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (see AMD9720) (50 mg, 0.125 mmol) in THF (5 mL) was added added N,N′-di-t-butoxycarbonyl-pyrazole-1-carboxamidine (60 mg, 0.187 mmol) and potassium carbonate (35 mg, 0.25 mmol) and the mixture stirred overnight. The reaction was diluted with aqueous NH4Cl (5 mL) and extracted with ethyl acetate (3×10 mL). The combined organic fractions were dried (Na2SO4), concentrated and purified by chromatography on silica gel (5% MeOH/CH2Cl2) to give the desired product as a pale foam (51 mg, 64%). 1H NMR (CDCl3) δ1.47 (s, 9H), 1.48 (s, 9H), 1.81 (m, 1H), 2.00 (m, 2H), 2.26 (m, 2H), 2.71-2.88 (m, 2H), 3.89-4.05 (m, 5H), 4.73 (dd, 1H, J=15.5, 5.1 Hz), 4.96 (dd, 1H, J=15.5, 5.7 Hz), 7.12 (m, 7H), 7.36-7.44 (m, 3H), 7.55 (br s, 1H (NH)), 8.55 (m, 1H (NH)), 8.66 (d, 1H, J=5.1 Hz).

reactant | (1H-Benzimidazol-2-ylmethyl)-(2-Aminomethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 0.125 mmol, 50 mg | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=C(C=CC=C2)CN | C25H27N5
reactant | N,N′-di-t-butoxycarbonyl-pyrazole-1-carboxamidine | 0.187 mmol, 60 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1N=CC=C1 | C14H22N4O4
reactant | potassium carbonate | 0.25 mmol, 35 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | 5 mL | [NH4+].[Cl-]
product | N-(2-{[(1H-benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-methyl}-benzyl)-guanidine | 51 mg, 64% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=C(CNC(=N)N)C=CC=C2 | C26H29N7
